US04990508
In 5 ml of acetic acid was dissolved 50 mg of 8-benzylamino-10-cyclopropyl-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid. To the resulting solution was added 50 mg of 5% palladium-carbon. The resulting mixture was stirred at room temperature for 1.5 hours at atmospheric pressure in a hydrogen stream. The reaction mixture was filtered. The filtrate was concentrated to dryness under reduced pressure. Ethanol was added to the residue obtained. The resulting crystals were collected by filtration to obtain 19.7 mg (yield: 50.5%) of 8-amino-10-cyclopropyl9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid. Melting point: >280° C. (recrystallized from chloroform-ethanol)

reactant | 8-benzylamino-10-cyclopropyl-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 50 mg | C(C1=CC=CC=C1)NC1=C(C(=C2C=3N(C(CO2)C)C=C(C(C13)=O)C(=O)O)C1CC1)F | C23H21FN2O4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 50 mg | [C].[Pd]
product | 8-amino-10-cyclopropyl9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 19.7 mg, yield: 50.5% | NC1=C(C(=C2C=3N(C(CO2)C)C=C(C(C13)=O)C(=O)O)C1CC1)F | C16H15FN2O4
